US07141576B2
(d) Preparation of 4-(3-fluorobenzyloxy)-3-chloro aniline
Under nitrogen, a Parr Shaker flask was charged with Pt/C 5% (135 mg) and ethanol (180 mL) and 4-(3-fluorobenzyloxy)-3-chloro nitrobenzene (13.5 g) was added. The reaction vessel was placed on a Parr Shaker Apparatus under 25 psi of H2 for 50 minutes. The catalyst was then removed by filtration through Celite and the filtrate concentrated to afford a light grey solid. The filtrate was triturated with diethyl ether and the solids collected by filtration (12.05 g, ˜100% yield).

reactant | 4-(3-fluorobenzyloxy)-3-chloro nitrobenzene | 13.5 g | FC=1C=C(COC2=C(C=C(C=C2)[N+](=O)[O-])Cl)C=CC1 | C13H9ClFNO3
catalyst | Pt/C | 135 mg | [Pt] | Pt
solvent | ethanol | 180 mL | C(C)O | C2H6O
product | 4-(3-fluorobenzyloxy)-3-chloro aniline | ˜100% yield | FC=1C=C(COC2=C(C=C(N)C=C2)Cl)C=CC1 | C13H11ClFNO
